Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't want to be here"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o male with alcohol use disorder, 
cannabis use disorder, no prior psychiatric hospitalizations or 
suicide attempts, presented to the ___ ED accompanied by his 
girlfriend given concern for worsening suicidal ideation, 
depression, with new self injurious behaviors exhibited last 
night. Patient has felt chronically depressed for the past ___ 
years, has had passive suicidal ideation for some time that has 
now progressed over the last ___ months in the setting of 
several psychosocial stressors including financial concerns.
.
He endorses several neurovegetative symptoms, denies any 
symptoms of mania or psychosis. With respect to his suicidality, 
he does not have a plan or past suicide attempt. 
.
Notably, patient has also increased his alcohol intake to ___ 
drinks daily. Has not had any withdrawal symptoms in the past. 
He does not see his alcohol use as connected with his 
depression. He also usually smokes marijuana every other day. 
Smokes ___ cigarettes daily ___ years. No illicit drug use 
reported.
.
Per patient's girlfriend (now ex-girlfriend), patient has 
recently become angry and violent, though not directed at her. 
He has bene throwing object, punching walls, screaming. She did 
not have any concerns for her safety. Reported that patient has 
been expressing a number of suicidal plans including jumping out 
of a window, walking in front of traffic, hanging himself. 
Though he has not acted on any of these concerns, she is 
concerned for his safety as he has poor insight into his alcohol 
use (has been drinking on the job, leading to his being fired), 
has not been eating, having difficulty caring for himself.
.
In the ED, patient calm and cooperative. Denied any acute 
concerns, reported feeling well. Received folate, thiamine, MVI. 
Vital signs stable, no tachycardia or hypertension. Did not see 
any documented CIWA scores in ED.
.
On interview currently, patient states that he both understands 
that he is "here to get better" but does not articulate any 
clear psychiatric concerns. States that he is not depressed but 
rather "frustrated." Says his sleep has been OK and his appetite 
somewhat diminished though at his baseline. He denies any AVH, 
denies current SI (last had SI that was passive this AM), denies 
HI.
.
Patient notes that he is hoping to be out of the hospital by 
___ as he has a job that he cannot miss at that time, notes 
that financial concerns were largely what brought him here in 
the first place.
.
REVIEW OF SYSTEMS:
 -Psychiatric:  As per HPI.
 -General: 10-point ROS completed and negative, including no 
chest pain, dyspnea, headache, nausea, vomiting, diarrhea, 
constipation, pain or discomfort anywhere in his body, dysuria.
 
Past Medical History:
Past psychiatric history absent for any previous diagnoses, 
inpatient admissions or suicide attempts. One episode of 
self-harm by cutting on night prior to admission. Per patient, 
no history of harm to others (though per collateral patient has 
punched walls, thrown objects, etc.) No access to firearms. No 
outpatient providers and no previous medication trials.
.
Past medical history absent for any acute or chronic diagnoses; 
no history of seizures or TBI.
.
No known drug allergies
 
Social History:
Substance use history notable for daily drinking since ___ but
has increased over the past "few months." Drinks ___ drinks a
day (mixed drinks w/ hard liquor vs. beer). Patient also smokes
marijuana every other day usually ___ gram. Patient smokes ___
cig. a day ___ years.

Forensic history absent for previous arrests, incarcerations, or 
current charges.
.
Patient was born in ___, moved to ___ about ___ years 
ago. He currently lives in an apartment with multiple roommates, 
currently unable to afford rent and per collateral was using his 
roommate's safety deposits. Patient is currently in a 
relationship with girlfriend (however unclear whether they are 
together, per girlfriend she does not appear to want to continue 
this relationship at this time given how stressful it has been 
emotionally). His parents are divorced, his older brother lives 
nearby in ___. Patient reports feeling very close to 
his parents and stated that they are a strong support system for 
him along with his friends and girlfriend. Patient is a high 
school graduate, was initially working as a ___ then 
started working as a ___ for the last ___ years. 
.
Patient denies any hx of trauma including sexual/physical/ 
emotional trauma. Has had tumultuous relationships in the past 
but stated that he would not classify them as abusive. 
 
Family History:
Family psychiatric history notable for maternal family members 
with alcohol use disorder and bipolar disorder. No known 
psychiatric hospitalizations or completed suicides.

 
Physical Exam:
VITAL SIGNS: T 98.6, HR 82, BP 127/84, RR 16, O2 97% RA 

 EXAM:
General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,  
oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no  
murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to  
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No  
tenderness to palpation in all quadrants.  No guarding, no  
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
 swing.

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: Alphabetizes the letters in "EARTH" correctly
-Orientation: Oriented to person, time, place, situation
 -Memory: ___ registration, ___ recall after 5 ___
 grossly intact
 -Fund of knowledge: Consistent with education; intact to last 3
 presidents
 -Calculations: 7 quarters = "$1.75"
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance: man appearing stated age, well groomed, wearing
 hospital gown, in no apparent distress
 -Behavior: Sitting on hospital bed, appropriate eye contact, no
 psychomotor agitation or retardation
 -Attitude: Cooperative, somewhat reserved, occasionally jocular
 -Mood: "frustrated"
 -Affect: somewhat restricted, though reactive, appropriate to
situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: limited
 -Judgment: impaired

 
Pertinent Results:
___ 10:40AM BLOOD WBC-6.8 RBC-4.77 Hgb-14.9 Hct-44.3 MCV-93 
MCH-31.2 MCHC-33.6 RDW-11.9 RDWSD-41.2 Plt ___
___ 10:40AM BLOOD Neuts-50.0 ___ Monos-9.6 Eos-1.6 
Baso-0.7 Im ___ AbsNeut-3.38 AbsLymp-2.54 AbsMono-0.65 
AbsEos-0.11 AbsBaso-0.05
___ 10:40AM BLOOD Glucose-93 UreaN-8 Creat-0.8 Na-142 K-4.1 
Cl-104 HCO3-25 AnGap-13
___ 06:33AM BLOOD ALT-25 AST-31 AlkPhos-52 TotBili-0.5
___ 06:33AM BLOOD TSH-1.3
___ 10:40AM BLOOD ASA-NEG Ethanol-18* Acetmnp-NEG 
Tricycl-NEG
___ 09:39AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 09:39AM URINE RBC-1 WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:39AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:39AM URINE Color-Yellow Appear-Hazy* Sp ___
 
Brief Hospital Course:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission.  He was also placed on 15minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
On initial interview, patient stated that he has been 
"chronically depressed for the past ___ years, has had passive 
suicidal ideation for some time that has now progressed over the 
last ___ months in the setting of several psychosocial stressors 
including financial concerns." However, on interview this 
morning, patient stated that any depressive symptoms he 
experienced recently were due to financial difficulties in the 
context of inconsistent employment. Reiterated that he is 
"frustrated," but denied significant changes in sleep, appetite, 
energy, or other neurovegetative symptoms. Continues to deny any 
AVH, denies current SI (last had SI that was passive yesterday 
AM), denies HI.
.
Regarding alcohol use contributing to current presentation, 
patient qualified that his use pattern was more like 4 drinking 
days per week, and on those days would consume between ___ 
drinks (e.g. "If I'm having a glass of wine at dinner, I have 
two and be done. If I'm out with friends at a bar, I'll have 3 
beers and two shots"). Added that he has the ability to stop 
drinking when he wants; stated, "I know beforehand how much I 
want to drink and I usually don't go beyond that." Finally, 
stated that he voluntarily abstains for alcohol around the time 
of his birthday (e.g. "I stop drinking for the number of days 
corresponding to how many years old I am"). When asked about 
what it was like to abstain, stated, "It was boring;" denied any 
significant change in mood or mentation. Patient expressed 
willingness to decrease quantity/frequency of alcohol consumed, 
but not interested in medications for cravings/abstinence at 
this time.
.
Regarding suicidal ideation, patient adamantly denied ongoing 
thoughts or desire to engage in self-harm. When asked about 
cutting himself the other night, stated, "I held the knife to my 
arm, but I didn't want to do anything." 
.
Discussed trials of medications for both low mood and alcohol 
cessation; patient declined at this time. However, he was 
amenable to referrals to individual therapy, partial hospital 
program, and primary care.  Though brief, patient denied any 
signifiant change in mood or mentation during admission. 
Appreciative for support provided by staff, however, requested 
to be discharged in order to fulfill work obligations at new job 
(starting on ___ in the evening).  Patient indicated that he 
would be willing to reduce the quantity of alcohol consumed on a 
regular basis. Denied adamantly current suicidal ideation or 
thoughts/urges to engage in self-harm. No somatic symptoms 
reported; patient did not experience symptoms of alcohol 
withdrawal during admission.
.
Patient provided verbal permission to speak with his parents and 
girlfriend regarding his recent functioning. Parents and 
girlfriend expressed concern about patient's recent decline in 
functioning and escalating drinking; also voiced desire for 
patient to participate in outpatient treatment. However, neither 
parents nor girlfriend expressed acute safety concern regarding 
patient's discharge to home.
.
On day of discharge patient exhibited mood congruent euthymic 
affect, linear thought process, and thought content absent for 
thoughts/urges to engage in self-harm, nor any suicidal 
ideation. Patient also demonstrated preserved capacity to engage 
in a meaningful conversation about safety planning and what he 
would do in the event of worsening symptoms of depression or 
onset of suicidal ideation (e.g. patient would contact his 
therapist, call ___, or come to the emergency department). 
Overall, at time of discharge, patient no longer at acutely 
elevated risk of self-harm that required ongoing inpatient 
psychiatric admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nicotine Polacrilex 1 STCK PO Q2H:PRN craving 
RX *nicotine (polacrilex) 2 mg 1 stick every 2 hours Disp #*60 
Gum Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder 
Alcohol Use Disorder
Cannabis Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___